US07625903B2
2-{[5-Chloro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}-N,N-dimethylbenzamide
2-[(2,5-dichloro-4-pyrimidinyl)amino]-N,N-dimethylbenzamide (300 mg, 0.96 mmol), 3-[2-(4-morpholinyl)ethyl]aniline (198 mg, 0.96 mmol) were combined in a vessel with 10 mL of isopropanol and TFA (74 μL, 0.96 mmol). The vessel was sealed and heated with stirring at 95° C. for 18 h. The reaction mixture was concentrated to dryness. The crude product was purified via semi-preparative HPLC to afford the title compound as a white solid (83 mg, 18%): Mass (M+H)+=481, 483.

reactant | 2-[(2,5-dichloro-4-pyrimidinyl)amino]-N,N-dimethylbenzamide | 0.96 mmol, 300 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)N(C)C)C=CC=C1)Cl | C13H12Cl2N4O
reactant | 3-[2-(4-morpholinyl)ethyl]aniline | 0.96 mmol, 198 mg | N1(CCOCC1)CCC=1C=C(N)C=CC1 | C12H18N2O
reactant | TFA | 0.96 mmol, 74 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2-{[5-Chloro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}-N,N-dimethylbenzamide | 83 mg, 18% | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C(=O)N(C)C)C=CC=C1 | C25H29ClN6O2
